US06235789B1
1-(2-Aminoethylidene)-7-methoxy-1,2,3,4-tetrahydronaphthalene
To a solution of (Z)-(1,2,3,4-tetrahydro-7-methoxy-1-naphthylidene)acetonitrile produced in Reference Example 2 (1.84 g, 9.23 mmol) in ethanol (10 ml) were added a saturated ammonia/ethanol solution (5 ml) and Raney cobalt (ODHT-60, 1.8 g). The mixture was stirred for 3 hours at room temperature under hydrogen atmosphere (about 4 kgf/cm2). The Raney cobalt was filtered off, then the solvent was distilled off to give the above-titled compound (a mixture of isomers) (yield 1.46 g, 78%, oil). This compound was used in the subsequent reaction without further purification.

reactant | (Z)-(1,2,3,4-tetrahydro-7-methoxy-1-naphthylidene)acetonitrile | COC1=CC=C2CCC/C(/C2=C1)=C/C#N | C13H13NO
reactant | ammonia ethanol | 5 ml | N.C(C)O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | cobalt | [Co] | Co
product | 1-(2-Aminoethylidene)-7-methoxy-1,2,3,4-tetrahydronaphthalene | NCC=C1CCCC2=CC=C(C=C12)OC | C13H17NO
